US06548670B1
In a 50 ml flask, 6-methyl-quinoxaline (1.25 g, 8.68 mmol) was dissolved together with N-bromosuccinimide (2.32 g, 13.0 mmol) and benzoyl-peroxide (0.15 g, 0.62 mmol) in 31 g of chlorobenzene. The solution was stirred with heating at 85° C for 2.0 hours to yield a reddish solution. The solution was cooled down to room temperature and one volume of pentane was added to facilitate the removal of succinimides. The precipitate was washed with pentane and the extracts were combined with the chlorobenzene solution. The yellow solution was vacuum dried to give a yellow residue mainly composed of 6-bromomethyl-quinoxaline. The yellow solid was dissolved in 19.0 g of n-butylamine to give a yellow solution that was stirred at room temperature for ˜5 minutes. Analysis of a sample showed that the 6-bromomethyl-quinoxaline was consumed to give exclusively 6-n-butylaminomethyl-quinoxaline as a deep yellow oil (1.71 g, 92% over all yield). MS (70 ev): 215 M+, 172 (M+—CH3—CH2—CH2), 143 (M+—CH3—CH2—CH2—CH2).

reactant | 6-methyl-quinoxaline | 8.68 mmol, 1.25 g | CC=1C=C2N=CC=NC2=CC1 | C9H8N2
reactant | N-bromosuccinimide | 13.0 mmol, 2.32 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl-peroxide | 0.62 mmol, 0.15 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 6-bromomethyl-quinoxaline | BrCC=1C=C2N=CC=NC2=CC1 | C9H7BrN2
solvent | chlorobenzene | 31 g | ClC1=CC=CC=C1 | C6H5Cl
solvent | n-butylamine | 19.0 g | C(CCC)N | C4H11N
solvent | pentane | CCCCC | C5H12
product | 6-n-butylaminomethyl-quinoxaline | C(CCC)NCC=1C=C2N=CC=NC2=CC1 | C13H17N3
